US06610734B2
5-Bromothiophene-2-sulfonyl chloride (5.0 g, 19.11 mmol) was added dropwise (5 min) as a solution in CH2Cl2 (10 mL) to a 0° C. solution of L isoleucinol (2.108 g, 18.16 mmol) in CH2Cl2 (15 mL) and triethylamine (3.77 mL, 27.24 mmol). The solution was allowed to warm to 25° C. overnight (19 h). An aliquot was taken and TLC. (1:1 EtOAc-hexane) indicated that reaction was complete it was diluted in methylene chloride (100 mL) and the organic layer was washed with 1N HCl (2×50 mL) and saturated aqueous NaCl (50 mL). The organic layer was dried over MgSO4, filtered, and concentrated to obtain a crude off-yellow solid (5.2 g). The crude product was purified by column chromatography, silica gel 230-400 mesh, eluent: starting with 1:4 EtOAc-hexane and ending with 1:1EtOAc-hexane to furnish 5-bromo-N-[(1S,2S)-1-(hydroxymethyl)-2-methylbutyl]-2-thiophenesulfonamide as an amorphous white solid (4.3 g, 70.49%). Mass Spectrum (−ESI): 246 (M−H)−.

reactant | 5-Bromothiophene-2-sulfonyl chloride | 19.11 mmol, 5.0 g | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | isoleucinol | 18.16 mmol, 2.108 g | N[C@@H]([C@@H](C)CC)CO | C6H15NO
reactant | triethylamine | 27.24 mmol, 3.77 mL | C(C)N(CC)CC | C6H15N
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-N-[(1S,2S)-1-(hydroxymethyl)-2-methylbutyl]-2-thiophenesulfonamide | 4.3 g, 70.49% | BrC1=CC=C(S1)S(=O)(=O)N[C@@H]([C@H](CC)C)CO | C10H16BrNO3S2
